US05374641
Diisopropylamine (2.8 g) in 50 ml of tetrahydrofuran in solution was cooled to -35 to -40° C., followed by addition of 1.5M n-butyllithium in 118 ml of hexane in solution, and stirred for 30 minutes to produce lithium diisopropylamide. To the solution was added a solution of 4.7 g of 2-(3-pyridyl)-2-(trimethylsiloxy) acetonitrile in dry tetrahydrofuran at -78° C., and stirred at the same temperature for 30 minutes, followed by addition of a solution of 5.3 g of methyl 4-bromomethylphenylacetate in dry tetrahydrofuran at -78° C., and stirred overnight from -78° C. to room temperature. To the reaction mixture was added 1.0M tetra-n-butylammonium fluoride in dry tetrahydrofuran (23 ml) in solution, and stirred at room temperature for four hours. The reaction solution was poured into saturated aqueous sodium chloride solution, followed by the separation of the organic phase. The aqueous phase was extracted with ethyl acetate subsequently. The organic phase was washed in saturated aqueous sodium chloride solution and dried over magnesium sulfate, to distill off the solvent. The residue was subjected to chromatography on a silica gel column, which was then eluted with chloroform to produce 2.3 g of methyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenylacetate.

reactant | 2-(3-pyridyl)-2-(trimethylsiloxy) acetonitrile | 4.7 g | N1=CC(=CC=C1)C(C#N)O[Si](C)(C)C | C10H14N2OSi
reactant | methyl 4-bromomethylphenylacetate | 5.3 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | methyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenylacetate | 2.3 g | O=C(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C16H15NO3
